US07071217B2
Preparation of 4-{[(Z)-(2-oxo-1,2-dihydro-3H-indol-3-ylidene) methyl]amino}-N-(2-pyridinyl)benzenesulfonamide
The title compound was prepared analogous to Example 5 from 3-(hydroxymethylene)-1,3-dihydro-2H-indol-2-one and sulfapyridine. Electrospray MS 393 (MH+).

reactant | 3-(hydroxymethylene)-1,3-dihydro-2H-indol-2-one | OC=C1C(NC2=CC=CC=C12)=O | C9H7NO2
reactant | sulfapyridine | C=1C=CN=C(C1)NS(=O)(=O)C=2C=CC(=CC2)N | C11H11N3O2S
product | 4-{[(Z)-(2-oxo-1,2-dihydro-3H-indol-3-ylidene) methyl]amino}-N-(2-pyridinyl)benzenesulfonamide | O=C\1NC2=CC=CC=C2/C1=C/NC1=CC=C(C=C1)S(=O)(=O)NC1=NC=CC=C1 | C20H16N4O3S
